datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0]([C:1](=[C:2][C:3]([H:7])([H:8])[H:9])[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20])([H:4])([H:5])[H:6],12.6357
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([C:8]([C:9]([C:10]([C:11](=[C:12]([H:28])[H:29])[H:27])[H:26])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([H:20])([H:21])[C:8]([H:22])([H:23])[C:9]([H:24])([H:25])[C:10]1([C:11](=[C:12]([H:28])[H:29])[H:27])[H:26])[H:13],66.5256
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6](=[C:7]([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([C:8](=[C:9]([H:21])[H:22])[H:20])[C:7]1([H:18])[H:19])[H:10],73.8058
[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[O:8][H:9]>>[C:0]([C:1](=[O:2])[H:7])([H:3])([H:4])[H:5].[H:6][O:8][H:9],0.0
[C:0]([O:1][O:2][O:3][H:7])([H:4])([H:5])[H:6].[C:8]([H:9])([H:10])[H:11]>>[C:0]([O:1][C:8]([H:9])([H:10])[H:11])([H:4])([H:5])[H:6].[O:2][O:3][H:7],57.6936
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]([C:23](=[S:24])[H:29])[H:28])([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([C:21]([H:25])([H:26])[H:27])([C:23](=[S:24])[H:29])[H:28],48.9528
[C:0]1([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]2([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]12[H:13]>>[C:0]1([H:7])=[C:6]([H:13])[C:5]([H:12])=[C:4]([H:11])[C:3]([H:10])[C:2]([H:9])=[C:1]1[H:8],105.646
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[Cl:9]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][Cl:9],0.748302
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[S:13]([c:14]1[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]1[H:25])[H:20]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:20])([H:4])([H:5])[H:6].[S:13][c:14]1[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]1[H:25],-19.6648
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:27]([H:28])([H:29])[H:30])[H:15])([H:13])[H:14],22.217
[O:0]=[S:1](=[O:2])[O:3][H:4].[O:5]>>[H:4][O:5].[O:0]=[S:1](=[O:2])=[O:3],0.0
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9]>>[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][O:9],7.23832
[C:0](=[S:1])([H:2])[H:3].[C:4](=[C:5][C:6]([H:9])([H:10])[H:11])([H:7])[H:8]>>[C:0](=[S:1])[H:3].[H:2][C:5](=[C:4]([H:7])[H:8])[C:6]([H:9])([H:10])[H:11],10.5018
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([S:1][S:2][C:7]([H:8])([H:9])[H:10])([H:3])([H:4])[H:5].[H:6],66.944
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[c:13]1([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:19])([H:4])([H:5])[H:6].[c:13]1[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24],69.831
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[C:17]([H:18])([H:19])[H:20]>>[C:0]1([H:9])[C:1]([H:10])([C:17]([H:18])([H:19])[H:20])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16],34.28788
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:15])([H:13])[H:14])[O:6][O:7][H:16])([H:8])[H:9]>>[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:8])[H:9].[O:6][O:7][H:16],63.5968
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:14](=[C:15]([H:17])[H:18])[H:16])[H:6],-0.29288
